US05015640
starting from ethyl 5,7-dihydro-6H-dibenz[c,e]-azepine-6-carboximidate and p-chlorophenyl isocyanate, there is obtained ethyl N-[(p-chlorophenyl)carbamoyl]-5,7-dihydro-6H-dibenz[c,e]azepine-6-carboximidate, m.p. 154°-156° C.;

reactant | ethyl 5,7-dihydro-6H-dibenz[c,e]-azepine-6-carboximidate | C1=CC=CC=2CN(CC3=C(C21)C=CC=C3)C(OCC)=N | C17H18N2O
reactant | p-chlorophenyl isocyanate | ClC1=CC=C(C=C1)N=C=O | C7H4ClNO
product | ethyl N-[(p-chlorophenyl)carbamoyl]-5,7-dihydro-6H-dibenz[c,e]azepine-6-carboximidate | ClC1=CC=C(C=C1)NC(=O)N=C(OCC)N1CC2=C(C3=C(C1)C=CC=C3)C=CC=C2 | C24H22ClN3O2
